US08193164B2
Intermediate WA 9-((1R,4S)-4-Hydroxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester
6-((S)-1-Hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (1.05 eq.) is suspended in THF (deoxygenated & dry). NaH (1.05 eq.) is added over 5 minutes and the reaction mixture is stirred at RT over 30 minutes. A solution of acetic acid (1S,3R)-3-hydroxy-cyclopentyl ester (1 eq.), triphenylphosphane (0.15 eq.) and tris(dibenzylideneacetone)dipalladium(0) in THF (deoxygenated & dry) is added to reaction. The reaction mixture is reflux for 6 hours. The reaction mixture is reduce in vacuo and columned to give the title compound.

reactant | 6-((S)-1-Hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | 1.05 eq. | COC(=O)C1=NC(=C2N=CNC2=N1)N[C@@H](CC1=CC=CC=C1)CO | C16H17N5O3
reactant | NaH | 1.05 eq. | [H-].[Na+]
reactant | acetic acid (1S,3R)-3-hydroxy-cyclopentyl ester | 1 eq. | O[C@H]1C[C@H](CC1)OC(C)=O | C7H12O3
reactant | triphenylphosphane | 0.15 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 9-((1R,4S)-4-Hydroxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)N[C@@H](CC1=CC=CC=C1)CO | C21H23N5O4
